US07557114B2
(b) 5-[1,4]Dioxan-2-yl-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A49(b) from 2-benzyl-5-(5,6-dihydro-[1,4]dioxin-2-yl)-2,3-dihydro-1H-isoindole and ammonium formate. Purple solid. MS (m/e): 206.3 ([M+H]+, 100%).

reactant | 2-benzyl-5-(5,6-dihydro-[1,4]dioxin-2-yl)-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1OCCOC1 | C19H19NO2
reactant | ammonium formate | C(=O)[O-].[NH4+]
product | 5-[1,4]Dioxan-2-yl-2,3-dihydro-1H-isoindole | O1C(COCC1)C=1C=C2CNCC2=CC1 | C12H15NO2
